* SPICE netlist of Part1-Parser.pdf

V1 5 0 3
V2 3 2 0.2
V3 7 6 2
I1 4 8 1e-3
I2 0 6 1e-3
R1 1 5 1.5
R2 1 2 1
R3 5 2 50
R4 5 6 0.1
R5 2 6 1.5
R6 3 4 0.1
R7 8 0 1e3
R8 4 0 10

.op
* .OPTIONS CUSTOM
.DC V1 2 3 0.1
* * .DC I2 2e-3 3e-3 1e-4
* * .DC V2 2 4 0.5
* .print DC V(1)
* .print DC V(2)
* .print DC V(3)
* .print DC V(4)
* .print DC V(5)
* .print DC V(6)
* .print DC V(7)
* .print DC V(8)
* .PLOT DC V(2)
.print DC V(2)
